US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(2-(1,3-dioxolan-2-yl)-5-(4-methylpyridin-2-yl)phenyl)guanidine (190 mg) in ethanol (2 ml) was added hydrochloric acid (36%, 1 ml), and the mixture was stirred for 6 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (50 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 2-amino-7-(4-methylpyridin-2-yl)quinazoline dihydrochloride (92 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(2-(1,3-dioxolan-2-yl)-5-(4-methylpyridin-2-yl)phenyl)guanidine | 190 mg | C(C)(C)(C)OC(=O)NC(=NC1=C(C=CC(=C1)C1=NC=CC(=C1)C)C1OCCO1)NC(=O)OC(C)(C)C | C26H34N4O6
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-amino-7-(4-methylpyridin-2-yl)quinazoline dihydrochloride | 92 mg | Cl.Cl.NC1=NC2=CC(=CC=C2C=N1)C1=NC=CC(=C1)C | InChI=1S/C14H12N4.2ClH/c1-9-4-5-16-12(6-9)10-2-3-11-8-17-14(15)18-13(11)7-10;;/h2-8H,1H3,(H2,15,17,18);2*1H
